US05182284
A 583 mg (1.40 mmoles) quantity of 1-benzyl-4-[10-(2-tetrahydropyranyloxy)decyl]piperazine was dissolved in 20 ml of ethanol, and 200 mg of 10% palladium-carbon was added thereto and the mixture was shaken at 3 atm. for 8 hours under a hydrogen atmosphere. The catalyst was filtered off and the filtrate was evaporated to dryness, giving 375 mg (yield: 82%) of N-[10-(2-tetrahydropyranyloxy)decyl]piperazine. Then, using N-t-butoxycarbonylphenylglycine and N-[10-(2-tetrahydropyranyloxy)decyl]piperazine, 1-(2-amino-2-phenylacetyl)-4-[10-(2-tetrahydropyranyloxy)decyl]piperazine was prepared in the same manner as in Reference Example 1. The obtained product was treated by the same procedure as in Reference Example 3, giving 384 mg (yield: 75%) of 1-(2-amino-2-phenylethyl) -4-[10-(2tetrahydropyranyloxy)decyl]piperazine.

reactant | 1-benzyl-4-[10-(2-tetrahydropyranyloxy)decyl]piperazine | C(C1=CC=CC=C1)N1CCN(CC1)CCCCCCCCCCOC1OCCCC1 | C26H44N2O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 200 mg | [C].[Pd]
product | N-[10-(2-tetrahydropyranyloxy)decyl]piperazine | 375 mg, yield: 82% | O1C(CCCC1)OCCCCCCCCCCN1CCNCC1 | C19H38N2O2
